US06642228B1
2-(3-(4-(2-Naphthyl)piperidyl)propyl)isoindoline Hydrochloride
Using 4-(2-naphthyl)piperidine (149 mg, 0.60 mmol) and 2-(3-chloropropyl)isoindoline hydrochloride (209 mg, 0.90 mmol) instead of 4-(3-indolyl)piperidine and 3-dimethylaminopropyl chloride hydrochloride respectively, reaction, extraction, and concentration were carried out in the same procedure as Example 4. The resulting crude product was purified by column chromatography on a silica gel (silica gel NH-DM 1020 produced by Fuji Silysia Chemical Ltd., eluent; chloroform) to afford a free form (119 mg) of the title compound as a colorless viscous oil. After adding hydrochloric acid/methanol to a solution of the free form in methanol, the mixture was concentrated and was then recrystallized from ethanol/ethyl acetate to afford the title compound (110 mg, yield: 41%) as white crystals.

reactant | 4-(2-naphthyl)piperidine | 0.60 mmol, 149 mg | C1=C(C=CC2=CC=CC=C12)C1CCNCC1 | C15H17N
reactant | 2-(3-chloropropyl)isoindoline hydrochloride | 0.90 mmol, 209 mg | Cl.ClCCCN1CC2=CC=CC=C2C1
reactant | 3-dimethylaminopropyl chloride hydrochloride | Cl.CN(CCCCl)C
product | 2-(3-(4-(2-Naphthyl)piperidyl)propyl)isoindoline Hydrochloride | 119 mg | Cl.C1=C(C=CC2=CC=CC=C12)C1CCN(CC1)CCCN1CC2=CC=CC=C2C1 | InChI=1S/C26H30N2.ClH/c1-2-7-23-18-24(11-10-21(23)6-1)22-12-16-27(17-13-22)14-5-15-28-19-25-8-3-4-9-26(25)20-28;/h1-4,6-11,18,22H,5,12-17,19-20H2;1H
